US07495004B2
7-(2-Chloro-6-fluorobenzyl)-1,3-dimethyl-8-pyrrolidin-1-yl-3,7-dihydro-1H-purine-2,6-dione
A solution of 8-bromo-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione (50 mg, 0.12 mmol) in 300 μL DMSO was treated with pyrrolidine (55 μL, 0.55 mmol) and heated at 130° C. for 15 h. The reaction was cooled to 25° C. and treated with 1 mL H2O. After centrifugation for 1 h the liquid was decanted, and the process was repeated. The reaction was treated with 1 mL toluene and concentrated under reduced pressure. The residue was treated with 2 mL CH2Cl2 followed by isocyanate scavenger resin (500 mg, 0.58 mmol, 1.16 mmol/g). The reaction was filtered after agitating for 30 min, and the filtrate was concentrated under reduced pressure to give 48 mg (>99% yield) of the title compound: 1H NMR (CDCl3, 300 MHz) 7.27-7.18 (m, 2H), 7.02-6.91 (m, 1H), 5.73 (s, 2H), 3.59-3.48 (m, 7H), 3.35 (s, 3H), 1.98-1.87 (m, 4H); MS (ESP+) m/e 392 (MH+); TLC (EtOAc:hexanes/1:1) Rf=0.24.

reactant | 8-bromo-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione | 0.12 mmol, 50 mg | BrC1=NC=2N(C(N(C(C2N1CC1=C(C=CC=C1F)Cl)=O)C)=O)C | C14H11BrClFN4O2
reactant | pyrrolidine | 0.55 mmol, 55 μL | N1CCCC1 | C4H9N
reactant | H2O | 1 mL | O | H2O
solvent | DMSO | 300 μL | CS(=O)C | C2H6OS
product | 7-(2-Chloro-6-fluorobenzyl)-1,3-dimethyl-8-pyrrolidin-1-yl-3,7-dihydro-1H-purine-2,6-dione | 48 mg, >99% yield | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)C)N2CCCC2)C(=CC=C1)F | C18H19ClFN5O2
